** sch_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/hm_pg_hv.sch
**.subckt hm_pg_hv GPWR VAPWR VDPWR ctrl VGND
*.ipin ctrl
*.iopin VAPWR
*.iopin VGND
*.iopin GPWR
*.iopin VDPWR
x2 VAPWR VDPWR ctrl H_crtl_p H_crtl_n VGND lv2hv
XM4 ctrl_n H_crtl_p VGND VGND sg13_hv_nmos w=2.6u l=0.45u ng=1 m=1 mm_ok=1
XM5 ctrl_n H_crtl_p VAPWR VAPWR sg13_hv_pmos w=4.44u l=0.45u ng=1 m=1 mm_ok=1
XM1 GPWR ctrl_n VAPWR VAPWR sg13_hv_pmos w={{width}}u l={{length}}u ng={{ng}} m={{m}} mm_ok=1
x3 VGND GPWR ctrl_n hv_dischg
**.ends

* expanding   symbol:  /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/lv2hv.sym # of pins=6
** sym_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/lv2hv.sym
** sch_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/lv2hv.sch
.subckt lv2hv VAPWR VDPWR in out_p out_n VGND
*.iopin VAPWR
*.iopin VGND
*.ipin in
*.iopin VDPWR
*.opin out_p
*.opin out_n
XM1 in_n in VGND VGND sg13_lv_nmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XM2 in_n in VDPWR VDPWR sg13_lv_pmos w=2u l=0.13u ng=1 m=1 mm_ok=1
XM3 in_p in_n VGND VGND sg13_lv_nmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XM4 in_p in_n VDPWR VDPWR sg13_lv_pmos w=2u l=0.13u ng=1 m=1 mm_ok=1
XM5 out_p net1 VGND VGND sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM6 net1 in_p VGND VGND sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM7 out_p net1 VAPWR VAPWR sg13_hv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM8 net1 net2 VAPWR VAPWR sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM9 net2 net1 VAPWR VAPWR sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM10 net2 in_n VGND VGND sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM11 out_n net2 VGND VGND sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM12 out_n net2 VAPWR VAPWR sg13_hv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/hv_dischg.sym # of pins=3
** sym_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/hv_dischg.sym
** sch_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/hv_dischg.sch
.subckt hv_dischg VGND GPWR gate
*.iopin GPWR
*.iopin VGND
*.ipin gate
XM6 GPWR gate net6 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1 m=1 mm_ok=1
XM7 net6 gate net5 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1 m=1 mm_ok=1
XM8 net5 gate net4 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1 m=1 mm_ok=1
XM9 net4 gate VGND VGND sg13_hv_nmos w=0.5u l=0.65u ng=1 m=1 mm_ok=1
XM1 GPWR gate net1 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1 m=1 mm_ok=1
XM2 net1 gate net2 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1 m=1 mm_ok=1
XM3 net2 gate net3 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1 m=1 mm_ok=1
XM4 net3 gate VGND VGND sg13_hv_nmos w=0.5u l=0.65u ng=1 m=1 mm_ok=1
.ends

.end
